US04734357
A mixture of 15.4 g of 3-(2-chloro-5-tetradecaneamidoanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one and 5.4 g of 1-(3-carboxyphenyl)-5-mercaptotetrazole was dissolved in 100 ml of dimethylformamide (DMF), and a solution of 4.9 g of N-glucosuccinic acid imide in 20 ml of DMF was added dropwise thereto at room temperature. The resulting mixture was stirred for 30 minutes, and 500 ml of water was added thereto. The mixture was then extracted with ethyl acetate. The ethyl acetate was distilled away under reduced pressure, and the residue was precipitated from a mixed solvent of ethyl acetate and acetonitrile to obtain 14 g of 3-(2-chloro-5-tetradecaneamidoanilino)-1-(2,4,6-trichlorophenyl)-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-2-pyrazolin-5-one, m.p., 155°-165° C. Yield was 68%.

reactant | 3-(2-chloro-5-tetradecaneamidoanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 15.4 g | ClC1=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)NC(CCCCCCCCCCCCC)=O | C29H36Cl4N4O2
reactant | 1-(3-carboxyphenyl)-5-mercaptotetrazole | 5.4 g | C(=O)(O)C=1C=C(C=CC1)N1N=NN=C1S | C8H6N4O2S
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2-chloro-5-tetradecaneamidoanilino)-1-(2,4,6-trichlorophenyl)-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-2-pyrazolin-5-one | 14 g, Yield was 68% | ClC1=C(NC2=NN(C(C2SC2=NN=NN2C2=CC(=CC=C2)C(=O)O)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)NC(CCCCCCCCCCCCC)=O | C37H40Cl4N8O4S
